// Generated for: spectre
// Generated on: Apr 21 01:00:40 2022
// Design library name: Design
// Design cell name: 1BitAdder_Simulate
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/home/ugrads/r/rohitbarichello/cadence/models/spectre/tsmc20P.m"
include "/home/ugrads/r/rohitbarichello/cadence/models/spectre/tsmc20N.m"

// Library name: Design
// Cell name: nand2
// View name: schematic
subckt nand2 A B GND VDD Y
    P1 (Y A VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 ps=2.4u \
        pd=2.4u m=1 region=sat
    P0 (Y B VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 ps=2.4u \
        pd=2.4u m=1 region=sat
    N1 (net18 B GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
    N0 (Y A net18 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u \
        pd=1.6u m=1 region=sat
ends nand2
// End of subcircuit definition.

// Library name: Design
// Cell name: inverter
// View name: schematic
subckt inverter GND VDD in out
    P0 (out in VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
    N0 (out in GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
ends inverter
// End of subcircuit definition.

// Library name: Design
// Cell name: xor2
// View name: schematic
subckt xor2 A B GND VDD Y
    I1 (GND VDD B net26) inverter
    I0 (GND VDD A net12) inverter
    P3 (Y A net29 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 ps=2.4u \
        pd=2.4u m=1 region=sat
    P2 (Y net12 net34 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
    P1 (net29 net26 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
    P0 (net34 B VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
    N3 (net31 B GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
    N2 (net35 net26 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
    N1 (Y A net31 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u \
        pd=1.6u m=1 region=sat
    N0 (Y net12 net35 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
ends xor2
// End of subcircuit definition.

// Library name: Design
// Cell name: 1BitAdder
// View name: schematic
subckt Design_1BitAdder_schematic A B Cin Cout GND S VDD
    I2 (net24 net23 GND VDD Cout) nand2
    I1 (A B GND VDD net23) nand2
    I0 (net16 Cin GND VDD net24) nand2
    I4 (net16 Cin GND VDD S) xor2
    I3 (A B GND VDD net16) xor2
ends Design_1BitAdder_schematic
// End of subcircuit definition.

// Library name: Design
// Cell name: 1BitAdder_Simulate
// View name: schematic
I0 (A B Cin Cout 0 S vdd!) Design_1BitAdder_schematic
V0 (vdd! 0) vsource type=dc dc=1.8
V3 (Cin 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=12n delay=3n \
        rise=100p fall=100p width=5n
V2 (B 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=12n delay=3n \
        rise=100p fall=100p width=5n
V1 (A 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=12n delay=3n \
        rise=100p fall=100p width=5n
C1 (S 0) capacitor c=50f m=1
C0 (Cout 0) capacitor c=50f m=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=30n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
