// Generated for: spectre
// Generated on: Apr 27 23:42:15 2022
// Design library name: Design
// Design cell name: 4BitAdder_transistor
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/ugrads/r/rohitbarichello/cadence/models/spectre/tsmc20N.m"
include "/home/ugrads/r/rohitbarichello/cadence/models/spectre/tsmc20P.m"

// Library name: Design
// Cell name: 4BitAdder_transistor
// View name: schematic
N143 (net0381 B3 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N142 (Cout net0328 net0383 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N141 (net0383 net0326 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N140 (net0382 net0318 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N139 (S3 net0316 net0387 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N138 (net0328 net0316 net0382 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N137 (net0331 net0318 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N136 (net0334 net0316 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N135 (net0387 net0318 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N134 (net0386 net0331 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N133 (S3 net0334 net0386 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N132 (net0326 A3 net0381 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N131 (net0385 B3 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N130 (net0316 A3 net0385 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N129 (net0384 net0310 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N128 (net0316 net0312 net0384 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N127 (net0310 B3 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N126 (net0312 A3 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N125 (net0275 A2 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N124 (net0273 B2 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N123 (net0279 net0275 net0399 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N122 (net0399 net0273 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N121 (net0279 A2 net0398 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N120 (net0398 B2 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N119 (net0289 A2 net0402 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N118 (S2 net0297 net0397 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N117 (net0397 net0294 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N116 (net0396 net0281 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N115 (net0297 net0279 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N114 (net0294 net0281 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N113 (net0291 net0279 net0401 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N112 (S2 net0279 net0396 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N111 (net0401 net0281 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N110 (net0400 net0289 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N109 (net0318 net0291 net0400 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N108 (net0402 B2 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N107 (net0238 A1 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N106 (net0236 B1 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N105 (net0242 net0238 net0410 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N104 (net0410 net0236 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N103 (net0242 A1 net0409 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N102 (net0409 B1 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N101 (net0252 A1 net0413 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N89 (net056 A0 net084 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N88 (net084 B0 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N92 (S1 net0260 net0408 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N87 (net074 net058 net085 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N86 (net085 net056 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N91 (net0408 net0257 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N90 (net0407 net074 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N85 (net064 net046 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N97 (net0260 net0242 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N84 (net061 Cin GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N96 (net0257 net074 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N95 (net0254 net0242 net0412 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N93 (S1 net0242 net0407 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N74 (net058 net046 net024 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N94 (net0412 net074 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N73 (net024 Cin GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N72 (net014 A0 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N81 (S0 net046 net087 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N83 (S0 net064 net089 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N98 (net0411 net0252 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N78 (net026 B0 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N76 (net046 net014 net025 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N99 (net0281 net0254 net0411 GND) tsmc20N w=300n l=200n as=1.5e-13 \
        ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
N77 (net025 net012 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N100 (net0413 B1 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N79 (net046 A0 net026 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N82 (net089 net061 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N80 (net087 Cin GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
N75 (net012 B0 GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
P145 (Cout net0328 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P144 (net0334 net0316 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P143 (Cout net0326 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P142 (net0390 net0318 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P141 (net0331 net0318 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P140 (S3 net0316 net0391 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P139 (net0391 net0331 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P138 (net0328 net0318 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P137 (S3 net0334 net0390 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P136 (net0328 net0316 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P135 (net0326 B3 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P134 (net0326 A3 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P133 (net0316 A3 net0389 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P132 (net0316 net0312 net0388 VDD) tsmc20P w=700n l=200n as=3.5e-13 \
        ad=3.5e-13 ps=2.4u pd=2.4u m=1 region=sat
P131 (net0389 net0310 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P130 (net0388 B3 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P129 (net0310 B3 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P128 (net0312 A3 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P127 (net0275 A2 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P126 (net0273 B2 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P125 (net0395 B2 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P124 (net0394 net0273 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P123 (net0279 net0275 net0395 VDD) tsmc20P w=700n l=200n as=3.5e-13 \
        ad=3.5e-13 ps=2.4u pd=2.4u m=1 region=sat
P122 (net0279 A2 net0394 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P121 (net0289 A2 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P120 (net0289 B2 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P119 (net0291 net0279 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P118 (S2 net0297 net0393 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P117 (net0291 net0281 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P116 (net0392 net0294 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P115 (S2 net0279 net0392 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P114 (net0294 net0281 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P113 (net0393 net0281 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P112 (net0318 net0289 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P111 (net0297 net0279 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P110 (net0318 net0291 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P109 (net0238 A1 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P108 (net0236 B1 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P107 (net0406 B1 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P106 (net0405 net0236 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P105 (net0242 net0238 net0406 VDD) tsmc20P w=700n l=200n as=3.5e-13 \
        ad=3.5e-13 ps=2.4u pd=2.4u m=1 region=sat
P104 (net0242 A1 net0405 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P103 (net0252 A1 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P102 (net0252 B1 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P91 (net056 A0 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P90 (net056 B0 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P96 (net0254 net0242 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P94 (S1 net0260 net0404 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P95 (net0254 net074 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P89 (net074 net058 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P88 (net074 net056 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P92 (net0403 net0257 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P93 (S1 net0242 net0403 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P87 (net064 net046 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P98 (net0257 net074 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P86 (net061 Cin VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P85 (net088 Cin VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P74 (net058 net046 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P73 (net058 Cin VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P72 (net014 A0 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P83 (S0 net064 net088 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P97 (net0404 net074 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P80 (net046 net014 net027 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P77 (net027 B0 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P81 (net046 A0 net028 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P100 (net0281 net0252 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P79 (net028 net012 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P99 (net0260 net0242 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P82 (S0 net046 net086 VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P84 (net086 net061 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P101 (net0281 net0254 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
P75 (net012 B0 VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 \
        ps=2.4u pd=2.4u m=1 region=sat
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=30n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
